US09034882B2
To a solution of methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate (1.28 g, 3.11 mmol, 1 equiv) in DCM (16 mL) was added Dess-Martin periodindane (1.85 g, 4.36 mmol, 1.4 equiv). After 30 min, the reaction was added saturated aqueous NHCO3 and extracted with DCM (×3). The combined DCM extracts were dried over Na2SO4 and concentrated in vacuo. The crude product was purified by silica gel flash chromatography (0-50% EtOAc/hexane) to provide methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate as a yellow solid (0.71 g, 56%). 1H NMR (400 MHz, CDCl3) δ 6.56 (s, 1H), 3.94 (s, 3H), 3.58-3.43 (m, 4H), 2.55 (s, 3H), 1.64-1.50 (m, 4H), 1.05 (s, 6H); LCMS (ESI, M+1): 409.2.

reactant | methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 3.11 mmol, 1.28 g, 1 equiv | BrC1=NN2C(N=C(C(=C2N2CCC(CC2)(C)C)C(C(=O)OC)O)C)=C1 | C17H23BrN4O3
reactant | Dess-Martin | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 16 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate | 0.71 g, 56% | BrC1=NN2C(N=C(C(=C2N2CCC(CC2)(C)C)C(C(=O)OC)=O)C)=C1 | C17H21BrN4O3
